US08664213B2
Synthesis of 2-(1-phenyl-1H-tetrazol-5-yl)-2,7-diazaspiro[4.4]nonane
tert-butyl 7-(1-phenyl-1H-tetrazol-5-yl)-2,7-diazaspiro[4.4]nonane-2-carboxylate (100 mg) was dissolved in 10% TFA solution in CH2Cl2 (10 mL). The reaction was stirred at room temperature for 24 hours. After removal of solvents, the residue, crude 2-(1-phenyl-1H-tetrazol-5-yl)-2,7-diazaspiro[4.4]nonane, was used in the further reactions without purification.

reactant | tert-butyl 7-(1-phenyl-1H-tetrazol-5-yl)-2,7-diazaspiro[4.4]nonane-2-carboxylate | 100 mg | C1(=CC=CC=C1)N1N=NN=C1N1CC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C19H26N6O2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-phenyl-1H-tetrazol-5-yl)-2,7-diazaspiro[4.4]nonane | C1(=CC=CC=C1)N1N=NN=C1N1CC2(CC1)CNCC2 | C14H18N6
